US07176210B2
Preparation of Intermediate 6-Ally-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol (I-15A-1a)
To a suspension of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (I-13A-1a; 1.72 g, 4.6 mmol) in allyl alcohol (50 ml) at 0° C. was added NaH (60% dispersion in oil, 0.28 g, 6.9 mmol), portionwise over 3 minutes. After warming to room temperature, the reaction was stirred overnight. The resultant allyl ether was then heated at 125° C. for 1.5 hours to facilitate the rearrangement. The reaction was concentrated, in vacuo, to give a residue which was partitioned between ethyl acetate and water adjusted to pH=4 with 1M aqueous HCl. The organic layer which contained dispersed solids was separated, washed with brine, and the solids then collected by vacuum filtration to give product I-15A-1a (1.24 g, 68%) as a solid: +ESI MS (M+1) 396.4; 1H NMR (400 MHz, CD3OD) δ 7.64 (s 1H), 7.52–7.48 (m, 1H), 7.43–7.48 (m, 3H), 7.30 (d, J=8.7 Hz, 2H), 7.15 (d, J=8.7 Hz, 2H), 6.06–5.92 (m, 1H), 5.21–5.14 (m, 1H), 5.12–5.07 (m, 1H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | 4.6 mmol, 1.72 g | ClC1=CC=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C18H10Cl3N3
reactant | NaH | 6.9 mmol, 0.28 g | [H-].[Na+]
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | allyl alcohol | 50 ml | C(C=C)O | C3H6O
product | 6-Ally-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol | C(C=C)C=1C=NC=2N(C1O)N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C21H15Cl2N3O
